US04122265
86.4 G. of ceric ammonium nitrate are dissolved in 150 ml. of water and 150 ml. of glacial acetic acid. 22.2 G. of 5-chloro-3-phenylisoindole-1-carboxylic acid [2-(diethylamino)ethyl]amide are added and the mixture is stirred at 80° C. for 20 minutes, the color of the solution obtained changing from orange to light yellow. After cooling, 750 ml. of ice-water are added and the separated oil is extracted with methylene chloride. The extract is washed with 2-N ammonium hydroxide and a saturated sodium chloride solution, dried over sodium sulfate and evaporated. The oily residue is dissolved in diethyl ether and treated with excess ethereal hydrochloric acid. The precipitated hydrochloride is removed by filtration, washed with diethyl ether and dried over phosphorus pentoxide in a desiccator. After recrystallization from methylene chloride/diethyl ether, there is obtained p-benzoyl-p-chlorophenylglyoxylic acid [2-(diethylamino)ethyl]amide hydrochloride in the form of almost colorless crystals having a melting point of 161°-164° C. (decomposition).

reactant | water | O | H2O
reactant | 5-chloro-3-phenylisoindole-1-carboxylic acid [2-(diethylamino)ethyl]amide | C(C)N(CCNC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CC | C21H24ClN3O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | p-benzoyl-p-chlorophenylglyoxylic acid [2-(diethylamino)ethyl]amide hydrochloride | Cl.C(C)N(CCNC(C(=O)C1=CCC(C=C1)(Cl)C(C1=CC=CC=C1)=O)=O)CC | InChI=1S/C21H25ClN2O3.ClH/c1-3-24(4-2)15-14-23-20(27)18(25)16-10-12-21(22,13-11-16)19(26)17-8-6-5-7-9-17;/h5-12H,3-4,13-15H2,1-2H3,(H,23,27);1H
